US04002757
N-(1-Cyclohexyl-3-pyrrolidinyl)-N-methyl-1-naphthalene-carboxamide Hydrochloride.
To 18.8 gm. (0.11 mole) of 1-cyclohexyl-3-methylaminopyrrolidine in dry benzene was added dropwise with stirring 19.0 gm. (0.10 mole) of 1-naphthalenecarbonyl chloride in dry benzene. The crystalline product which separated was collected and recrystallized from benzene to give 27.5 gm. (74%) of product which melted at 219°-221° C.

reactant | 1-cyclohexyl-3-methylaminopyrrolidine | 0.11 mole | C1(CCCCC1)N1CC(CC1)NC | C11H22N2
reactant | 1-naphthalenecarbonyl chloride | 0.10 mole | C1(=CC=CC2=CC=CC=C12)C(=O)Cl | C11H7ClO
solvent | benzene | C1=CC=CC=C1 | C6H6
product | N-(1-Cyclohexyl-3-pyrrolidinyl)-N-methyl-1-naphthalene-carboxamide Hydrochloride | Cl.C1(CCCCC1)N1CC(CC1)N(C(=O)C1=CC=CC2=CC=CC=C12)C | InChI=1S/C22H28N2O.ClH/c1-23(19-14-15-24(16-19)18-10-3-2-4-11-18)22(25)21-13-7-9-17-8-5-6-12-20(17)21;/h5-9,12-13,18-19H,2-4,10-11,14-16H2,1H3;1H
